US05338849
2,2,2-Trichloro-N-(4-fluoro-2-methylphenyl)acetamide
A solution of 9.1 g (0.05 mol) of trichloroacetyl chloride in 40 ml of dichloroethane is added at -5° C. to a solution of 6.25 g (0.05 mol) of 4-fluoro-2-methylaniline in 75 ml of dichloromethane and 3.95 g (0.05 mol) of pyridine. This solution is stirred at room temperature for one hour and then poured into ice-cold water, and the organic phase is separated after settling has taken place, washed with water and dried over sodium sulphate. It is filtered, the filtrate is evaporated and the residue is dispersed in hexane; a pink solid is thereby obtained.

reactant | trichloroacetyl chloride | 0.05 mol, 9.1 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | 4-fluoro-2-methylaniline | 0.05 mol, 6.25 g | FC1=CC(=C(N)C=C1)C | C7H8FN
reactant | pyridine | 0.05 mol, 3.95 g | N1=CC=CC=C1 | C5H5N
solvent | dichloroethane | 40 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 2,2,2-Trichloro-N-(4-fluoro-2-methylphenyl)acetamide | ClC(C(=O)NC1=C(C=C(C=C1)F)C)(Cl)Cl | C9H7Cl3FNO
